US07067658B2
2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine (0.20 g, 0.66 mmol) and 1-methyl-butylamine (0.11 g, 1.32 mmol) were treated substantially as described in Part D of Example 9 to produce 0.20 g (87%) of crude [4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1-methyl-butyl)-amine: MS (AP) m/z 354.2 [(M+H)+, 100].

reactant | 2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 0.66 mmol, 0.20 g | ClC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C11H5Cl3N2O2
reactant | 1-methyl-butylamine | 1.32 mmol, 0.11 g | CC(CCC)N | C5H13N
product | [4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1-methyl-butyl)-amine | 0.20 g, 87% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(CCC)C)[N+](=O)[O-] | C16H17Cl2N3O2
